US07008957B2
7a) tert-Butyl (3S,5S,6R)-3-allyl-2-oxo-5,6-diphenylmorpholine-4-carboxylate
10 g of tert-butyl (5S,6R)-2-oxo-5,6-diphenylmorpholine-4-carboxylate were dissolved in 200 ml of THF and cooled to −78° C. 63 ml of a 0.5 M solution of KHMDS in toluene were added dropwise and, after stirring for 10 min, 3.7 ml of allyl bromide were added dropwise. The mixture was allowed to warm from −78° C. to −20° C. over the course of 3 h, and the reaction was then stopped by adding 300 ml of a saturated ammonium chloride solution. 200 ml of ethyl acetate were added, and the phases were separated. The aqueous phase was extracted 3 times with 100 ml of ethyl acetate each time, and the combined organic phases were dried with MgSO4. The solvents were removed in vacuo and the residue was stirred with diisopropyl ether.

reactant | tert-butyl (5S,6R)-2-oxo-5,6-diphenylmorpholine-4-carboxylate | 10 g | O=C1CN([C@H]([C@H](O1)C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C21H23NO4
reactant | KHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | allyl bromide | 3.7 ml | C(C=C)Br | C3H5Br
reactant | ammonium chloride | 300 ml | [Cl-].[NH4+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | tert-Butyl (3S,5S,6R)-3-allyl-2-oxo-5,6-diphenylmorpholine-4-carboxylate | C(C=C)[C@@H]1N([C@H]([C@H](OC1=O)C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C24H27NO4
